US06462073B2
4-(4-n-Butoxy-benzenesulfonyl)1-(methoxy-benzyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-Butoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4- carboxylic acid ethyl ester (3.0 g, 6.1 mmol) dissolve in methanol (30 mL), 10N sodium hydroxide (10 mL), tetrahydrohydrofuiran (20 mL). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.5 g (53%). white solid mp 207° C., MS: 462.5 (M+H)+.

reactant | 4-(4-Butoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4- carboxylic acid ethyl ester | 6.1 mmol, 3.0 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C26H35NO6S
reactant | sodium hydroxide | 10N, 10 mL | [OH-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
product | 4-(4-n-Butoxy-benzenesulfonyl)1-(methoxy-benzyl)-piperidine-4-carboxylic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(C1=CC=CC=C1)OC)C(=O)O | C24H31NO6S
